US05710169
N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]-N-methyl-3,5-bis(trifluoromethyl)phenylacetamide hydrochloride salt
A solution of 3,5-bis(trifluoromethyl)phenylacetic acid (1.61 g) and 1,1'-carbonyldiimidazole (1.01 g) in tetrahydrofuran (15 mL) was stirred at reflux for 0.5 hours. The reaction was cooled to 23° C. and treated with a solution of N-[2-(3,4-dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethyl]methylamine (2.24 g) in tetrahydrofuran (70 mL). The reaction was stirred at 23° C. for 18 hours. The reaction was evaporated to an oil, and the oil was partitioned between diethylether and 1N hydrochloric acid (100 mL). The organic layer was treated with ethereal hydrochloric acid to produce the title compound as a white solid (950 mg); mp 230° C.; MS: m/z=633(M+1); NMR: 1.73 (m,2), 2.42 (m, 1), 2.75 (m, 1), 3.01 (s,4), 3.86 (m,4,), 4.43 (m, 1), 4.85 (m, 1), 5.34 (m, 1), 7.34 (m, 5), 7.73 (s 2), 7.87 (m,5), 8.06 (s,1), 11.36 (broad s,1). Analysis Calculated: C, 53.79; H, 4.36; N, 4.18; Found: C, 54.06; H, 4.48; N, 4.23.

reactant | 3,5-bis(trifluoromethyl)phenylacetic acid | 1.61 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | 1,1'-carbonyldiimidazole | 1.01 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[2-(3,4-dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethyl]methylamine | 2.24 g | ClC=1C=C(C=CC1Cl)C(CNC)N1CCC(CC1)(C1=CC=CC=C1)O | C20H24Cl2N2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]-N-methyl-3,5-bis(trifluoromethyl)phenylacetamide hydrochloride salt | 950 mg | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)N1CCC(CC1)(C1=CC=CC=C1)O | InChI=1S/C30H28Cl2F6N2O2.ClH/c1-39(27(41)15-19-13-22(29(33,34)35)17-23(14-19)30(36,37)38)18-26(20-7-8-24(31)25(32)16-20)40-11-9-28(42,10-12-40)21-5-3-2-4-6-21;/h2-8,13-14,16-17,26,42H,9-12,15,18H2,1H3;1H
